US05340808
To a stirring room temperature solution of ethyl 2-amino-5-nitrobenzoate (68. 1 g, 0.32 mol) and 4-dimethylaminopyridine (5.0 g, 0.04 mol) in 2 L of THF was added dropwise a solution of di-tert-butyl dicarbonate (74.2 g, 0.34 mol) in 50 mL of THF. The solution was stirred for 12 h, concentrated, redissolved into ethyl acetate and washed with saturated sodium bicarbonate and saturated sodium chloride solutions. The ethyl acetate extract was dried (MgSO4) , filtered, concentrated and recrystallized from diethyl ether-hexanes to give ethyl 2-[[(1,1-dimethylethoxy)carbonyl]amino]-5-nitrobenzoate as a tan solid, mp 118°-121° C.

reactant | ethyl 2-amino-5-nitrobenzoate | 0.32 mol, 1 g | NC1=C(C(=O)OCC)C=C(C=C1)[N+](=O)[O-] | C9H10N2O4
reactant | di-tert-butyl dicarbonate | 0.34 mol, 74.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-dimethylaminopyridine | 0.04 mol, 5.0 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | THF | 2 L | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | ethyl 2-[[(1,1-dimethylethoxy)carbonyl]amino]-5-nitrobenzoate | CC(C)(OC(=O)NC1=C(C(=O)OCC)C=C(C=C1)[N+](=O)[O-])C | C14H18N2O6
